US06670372B2
A round bottom flask was charge with a stir bar, 2-(4-chloro-2-methyl-1H-imidazo[4,5-c]quinolin-1-yl)ethyl acetate (9.2 g, 30.5 mmol), methanol (200 mL) and potassium carbonate (0.4 g, 3.0 mmol). The reaction was judged complete after stirring for 5 hours at 26° C. The solution was partitioned between chloroform and brine. The organic layer was removed and the aqueous fraction extracted with chloroform (6×). The organic fractions were combined, dried with anhydrous sodium sulfate and concentrated under reduced pressure to approximately 200 mL when crystallization was observed. The solution was stoppered and maintained at ambient temperature for 24 hours. The resulting fine white crystals were collected by filtration to provide 4.49 g of 2-(4-chloro-2-methyl-1H-imidazo[4,5-c]quinolin-1-yl)ethanol.

reactant | 2-(4-chloro-2-methyl-1H-imidazo[4,5-c]quinolin-1-yl)ethyl acetate | 30.5 mmol, 9.2 g | C(C)(=O)OCCN1C(=NC=2C(=NC=3C=CC=CC3C21)Cl)C | C15H14ClN3O2
reactant | potassium carbonate | 3.0 mmol, 0.4 g | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 200 mL | CO | CH4O
product | 2-(4-chloro-2-methyl-1H-imidazo[4,5-c]quinolin-1-yl)ethanol | 4.49 g | ClC1=NC=2C=CC=CC2C2=C1N=C(N2CCO)C | C13H12ClN3O
